US07812045B2
Step 1) Synthesis of 1-(2-hydroxy-5-nitrophenyl)ethanone
4-Nitrophenol (1.61 g, 11.6 mmol) was dissolved in dichloroethane (10 ml) and aluminum chloride (2.31 g, 17.3 mmol) was slowly added in three portions. The addition of acetylchloride (0.818 ml, 11.51 mmol) was followed by stirring at 50° C. for 2 hours. The reaction was terminated with the addition of ice water (10 ml) and 2N hydrochloric acid solution (10 ml) at 0° C. The reaction mixture was extracted with dichloroethane (10 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated using vacuum evaporation. The crude product was purified by chromatography on silica gel to give the title compound (Yield 78%).

reactant | 4-Nitrophenol | 11.6 mmol, 1.61 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | aluminum chloride | 17.3 mmol, 2.31 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetylchloride | 11.51 mmol, 0.818 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | 1-(2-hydroxy-5-nitrophenyl)ethanone | Yield 78% | OC1=C(C=C(C=C1)[N+](=O)[O-])C(C)=O | C8H7NO4
